US09255100B2
N-cyclopropyl-4-{8-[(2-hydroxy-2-methylpropyl)amino]-6-(methylsulfanyl) imidazo[1,2-b]pyridazin-3-yl}-2-methylbenzamide
To a solution of 83 mg (201 μmol) 4-{6-chloro-8-[(2-hydroxy-2-methylpropyl)amino]imidazo[1,2-b]pyridazin-3-yl}-N-cyclopropyl-2-methylbenzamide which was prepared according to intermediate example 7a in 1.0 mL dimethyl sulfoxide were added 70 mg sodium methanethiolate and the mixture was heated under microwave irradiation at 70° C. for 1 hour. The mixture was poured into water and extracted with dichloromethane and methanol. The organic layer was washed with brine and dried over sodium sulfate. After filtration and removal of the solvent the residue was purified by recrystallisation to give 46.7 mg (55%) of the title compound.

reactant | 4-{6-chloro-8-[(2-hydroxy-2-methylpropyl)amino]imidazo[1,2-b]pyridazin-3-yl}-N-cyclopropyl-2-methylbenzamide | 201 μmol, 83 mg | ClC=1C=C(C=2N(N1)C(=CN2)C2=CC(=C(C(=O)NC1CC1)C=C2)C)NCC(C)(C)O | C21H24ClN5O2
reactant | sodium methanethiolate | 70 mg | C[S-].[Na+]
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 1.0 mL | CS(=O)C | C2H6OS
product | N-cyclopropyl-4-{8-[(2-hydroxy-2-methylpropyl)amino]-6-(methylsulfanyl) imidazo[1,2-b]pyridazin-3-yl}-2-methylbenzamide | 46.7 mg, 55% | C1(CC1)NC(C1=C(C=C(C=C1)C1=CN=C2N1N=C(C=C2NCC(C)(C)O)SC)C)=O | C22H27N5O2S
